// Generated for: spectre
// Generated on: May 18 14:57:30 2022
// Design library name: CNT_CMOS
// Design cell name: INVX8
// Design view name: schematic
simulator lang=spectre
//global 0
//include "/simulation/tianliang/test/gpdk045_v_6_0/gpdk045/../models/spectre/gpdk045.scs" section=mc

// Library name: CNT_CMOS
// Cell name: INVX8
// View name: schematic
subckt INVX8 VSS VDD A Y
mp0 (Y A VDD) CNT_CDF l=0.6 w=40 MU=55 COX=110e-09 COL=0 CGSD=0 COLGSD=0 \
        CSD=0 VTO=-0.7 FLG_SPLT=1 FINGER=1 sdW=10 gsdEnc=1 gcntEnc=3 \
        TEMP=300 LAMBDA=0.005 VSS=0.18 GAMMA=0.35 IOFF=0 MM=1.65 AA=1 \
        SLOPE=10 VAA=1 RCS=500 RCD=500 FLG_FLD=0 RFS=1 RFD=1 RFG=1 typep=-1
mn0 (VSS A Y) CNT_CDF_N l=0.6 w=40 MU=55 COX=110e-09 COL=0 CGSD=0 COLGSD=0 \
        CSD=0 VTO=0.7 FLG_SPLT=1 FINGER=1 sdW=10 gsdEnc=1 gcntEnc=3 \
        TEMP=300 LAMBDA=0.005 VSS=0.18 GAMMA=0.35 IOFF=0 MM=1.65 AA=1 \
        SLOPE=10 VAA=1 RCS=500 RCD=500 FLG_FLD=0 RFS=1 RFD=1 RFG=1 typep=1
ends INVX8